US06936607B2
N4-[2-(ISOPROPYLAMINO)-4-METHYLPHENYL]-N6,N6-DIMETHYL-2-[4-(2-PYRIDINYL)-1-PIPERAZINYL]-4,6-PYRIMIDINEDIAMINE:
Sodium tert-butoxide (100 mg, 1.04 mmol) was added to a solution of N2-isopropyl-4-methyl-1,2-benzenediamine (100 mg 0.60 mmol) and N-{6-chloro-2-[4-(2-pyridinyl)-1-piperazinyl]-4-pyrimidinyl}-N,N-dimethylamine (100 mg, 0.30 mmol) in 1,4-dioxane (10 mL). Tris(dibenzylidineacetone)dipalladium (8 mg, 0.008 mmol) and 2,2′-Bis(diphenylphosphino)-1,1′binapthyl (10 mg, 0.016 mmol) were added to this mixture and heated at 110° C. for 10 hours. The resulting mixture was cooled to room temperature, concentrated in vacuo, and purified by preparative thin-layer chromatography [eluent: hexane/EtOAc (1:1)], giving the desired product (30 mg, 23%).

reactant | Sodium tert-butoxide | 1.04 mmol, 100 mg | CC(C)([O-])C.[Na+]
reactant | N2-isopropyl-4-methyl-1,2-benzenediamine | 0.60 mmol, 100 mg | C(C)(C)NC=1C(=CC=C(C1)C)N | C10H16N2
reactant | N-{6-chloro-2-[4-(2-pyridinyl)-1-piperazinyl]-4-pyrimidinyl}-N,N-dimethylamine | 0.30 mmol, 100 mg | ClC1=CC(=NC(=N1)N1CCN(CC1)C1=NC=CC=C1)N(C)C | C15H19ClN6
reactant | 2,2′-Bis(diphenylphosphino)-1,1′binapthyl | 0.016 mmol, 10 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N4-[2-(ISOPROPYLAMINO)-4-METHYLPHENYL]-N6,N6-DIMETHYL-2-[4-(2-PYRIDINYL)-1-PIPERAZINYL]-4,6-PYRIMIDINEDIAMINE | 30 mg, 23% | C(C)(C)NC1=C(C=CC(=C1)C)NC1=NC(=NC(=C1)N(C)C)N1CCN(CC1)C1=NC=CC=C1 | C25H34N8
